US08614221B2
3-Cyclobutyl-3-oxopropanenitrile [CCLXVIII]
A 50 mL three necked round bottom flask containing NaH (980 mg, 60%, 24.50 mmol, 1.57 eq.) and THF (10 mL) was heated to reflux under nitrogen for about 30 min. Then a mixture of cyclobutanecarboxylate [CCLXVII] (2 g, 15.6 mmol, 1.00 eq.) and acetonitrile (1 g, 24.3 mmol, 1.56 eq.) in 20 mL of THF was added dropwise to the refluxing suspension. After addition, the resulting mixture was refluxed for 16 h and worked up with water. The pH value of the reaction solution was adjusted to 4 with aqueous HCl solution and extracted with ethyl acetate. The combined organic phases were dried and concentrated, the residue was applied onto a silica gel column with ethyl acetate/petroleum ether as the eluent to give Compound [CCLXVIII] as a yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 3.40-3.60 (m, 1H), 3.43 (s, 2H), 2.25-2.36 (m, 4H), 2.01-2.15 (m, 1H), 1.82-1.96 (m, 1H).

reactant | NaH | 24.50 mmol, 980 mg, 1.57 eq. | [H-].[Na+]
reactant | cyclobutanecarboxylate | 15.6 mmol, 2 g, 1.00 eq. | C1(CCC1)C(=O)[O-]
reactant | acetonitrile | 24.3 mmol, 1 g, 1.56 eq. | C(C)#N | C2H3N
reactant | HCl | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Cyclobutyl-3-oxopropanenitrile | C1(CCC1)C(CC#N)=O | C7H9NO
